Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___ ___

 
History of Present Illness:
___ male PMH 2 spinal fusions, lyme disease, HTN and 
arthritis presents complaining of chest pain.  
 Patient had single episode of chest pain ___ night which 
resolved. ___ morning when he woke up he had some nasuea. He 
presented to his PCP on ___ who drew a troponin. At ___ 
he was started on heparin gtt and given 325 mg aspirin and 
transferred here.  
 On arrival to ___ ED patient denied chest pain. Patient 
states that his pain awoke him from sleep ___ night or ___ 
morning and lasted approximately ___ minutes. He states the 
pain radiated into both arms. No acute distress patient states 
that he felt "exhausted" with some nausea on the next day. 
Patient states that he called his physician who told him to come 
to the office today where an EKG was noted to be normal. Patient 
states that he was called later in the day telling him to come 
to the emergency department because his lab work was abnormal. 
Patient states that he went to ___ where he received a chest 
x-ray, aspirin and was started on a heparin drip. Patient states 
that he feels normal now.  
 In the ED, initial vitals were: 97.8 69 119/69 16 97% RA  
 - Exam notable for: CTAB, RRR, no ___ edema  
 - Labs notable for: WBC 18.2 bicarb 21 Trop 1.11  
 Sinus 65, normal axis, NI, ST depression 2 mm V2-V4  
 - Imaging was notable for:  
 CXR  
 "No acute cardiopulmonary abnormality.  
 Multiple punctate calcified nodules throughout the lungs which 
may reflect healed varicella or sequela of prior granulomatous 
disease such as histoplasmosis. "  
 - Cards was consulted: admit to ___, order TTE, NPO for 
possible cath, start heparin gtt  
 - Patient was given: heparin  
 Upon arrival to the floor, patient reports that he had two 
episodes of chest pain, one a few weeks prior and one on ___ 
nght that felt like chest pressure, with pain radiating down 
both arms. At the time in both instances, he was at rest, and he 
thought it was heartburn, but in retrospect he felt these 
episodes were different as he felt "wiped out afterwards". After 
___ event, he reports feeling nauseous and exhausted most of 
___.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI  
 
Past Medical History:
glaucoma  
 HTN  
 scabies in ___  
 MEDICATIONS:  
 HTN  
 glaucoma (open angle)  
 
Social History:
___
Family History:
 Father died of stroke s/p dementia, mother ___ of breast 
cancer  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
Vital Signs: T 98.2 BP 113/70 HR 71 RR 18 98 % RA  
 General: Alert, oriented, no acute distress, pleasant, wife at 
bedside, slight smell of smoke  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE PHYSICAL EXAM:
======================
- VITALS:   afebrile, HR 60'-70's, BP 90's-100's/60-70's, RR 
___, O2 93-98% RA
- TELEMETRY:  NSR
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
Neck: Supple. JVP not elevated. 
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: RRA site c/d/I without hematoma. Warm, well perfused, 2+ 
pulses, no clubbing, cyanosis or edema  
Neuro: CNII-XII grossly intact, ___ strength upper/lower 
extremities, grossly normal sensation, 2+ reflexes bilaterally, 
gait deferred. 
 
Pertinent Results:
ADMISSION LABS:
==============
___ 06:00PM   GLUCOSE-99 UREA N-15 CREAT-0.7 SODIUM-138 
POTASSIUM-3.4 CHLORIDE-102 TOTAL CO2-21* ANION GAP-18
___ 06:00PM   estGFR-Using this
___ 06:00PM   cTropnT-1.11*
___ 06:00PM   CK-MB-81*
___ 06:00PM   CRP-89.3*
___ 06:00PM   WBC-18.2* RBC-4.45* HGB-14.2 HCT-40.8 MCV-92 
MCH-31.9 MCHC-34.8 RDW-12.9 RDWSD-43.5
___ 06:00PM   NEUTS-68.1 LYMPHS-15.7* MONOS-15.1* EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-12.40* AbsLymp-2.85 AbsMono-2.74* 
AbsEos-0.06 AbsBaso-0.05
___ 06:00PM   HYPOCHROM-NORMAL ANISOCYT-OCCASIONAL 
POIKILOCY-NORMAL MACROCYT-OCCASIONAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 06:00PM   PLT SMR-NORMAL PLT COUNT-265
___ 06:00PM   ___ PTT-83.6* ___

PERTINENT LABS:
=============
___ 05:50AM BLOOD WBC-9.7 RBC-3.67* Hgb-11.6* Hct-34.7* 
MCV-95 MCH-31.6 MCHC-33.4 RDW-13.1 RDWSD-45.4 Plt ___
___ 05:50AM BLOOD Glucose-88 UreaN-12 Creat-0.7 Na-143 
K-4.2 Cl-110* HCO3-20* AnGap-17
___ 06:00PM BLOOD CK-MB-81*
___ 06:00PM BLOOD cTropnT-1.11*
___ 11:40PM BLOOD cTropnT-1.81*
___ 05:50AM BLOOD cTropnT-1.39*
___ 06:00PM BLOOD CRP-89.3*

IMAGING:
========
___ CXR:
No acute cardiopulmonary abnormality.
Multiple punctate calcified nodules throughout the lungs which 
may reflect
healed varicella or sequela of prior granulomatous disease such 
as
histoplasmosis.

 ___ TTE:
Quantitative biplane LVEF is 46%. There is mild regional left 
ventricular systolic dysfunction with basal to mid inferior and 
inferolateral hypo-/akinesis and basal inferoseptal hypokinesis. 
Doppler parameters are most consistent with Grade I (mild) left 
ventricular diastolic dysfunction.
IMPRESSION:
 1) Mild regional left ventricular systolic dysfunction c/w 
prior myocardial infarction in the RCA territory.   

PROCEDURES:
===========
___ CARDIAC CATH:
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal
* Left Anterior Descending
The LAD has a focal 70% mid narrowing with no other significant 
disease
* Circumflex
The Circumflex is a small normal vessel
* Right Coronary Artery
The RCA was totally occluded proximally with left coronary 
collaterals to the distal vessel
-Continue aspirin uninterrupted indefinitely; clopidogrel 
minimum ___ year
-Consider PCI of LAD only if demonstrated ischemia - this lesion 
is not ideal due to location at diagonal bifurcation.
 
Brief Hospital Course:
___ male PMH 2 spinal fusions, lyme disease, HTN and 
arthritis presented with chest pain, found to have NSTEMI. He is 
status post DES to 100% occlusion to RCA, and iCM with EF of 47% 
with hypokinesis in RCA distribution. A 70% LAD lesion was not 
intervened on.

#CAD/NSTEMI: Presented to outside hospital ___ with chest pain 
that started ___. found to have NSTEMI and was started on 
heparin, aspirin loaded. Was transferred evening of ___ to ___ 
for intervention. EKG was consistent with inferior ischemia. On 
catherization ___ DES was placed in culprit lesion in RCA, and 
70% mid-LAD lesion was not intervened upon. TTE showed EF of 47% 
with inferolateral and basal inferoseptal hypokinesis.
Discharged with close outpatient cardiology follow up for stress 
echo in the next 2 weeks, with consideration of intervention of 
LAD lesion.
He was discharged with plan for ticagrelor for ___ year, lifetime 
aspirin 81 daily. He was started on atorvastatin, lisinopril, 
kept on home metoprolol. 

#HTN: Notably blood pressures were 90-100's/60's this admission. 
He was kept on home metoprolol but home amlodipine was 
discontinued. Lisinopril was started for depressed EF.

#Tobacco Use: Noted to be 1 pack per day smoker. He was 
counseled on smoking cessation and prescribed nicotine patch.

Transitional Issues:
===================
-ASA indefinitely, ticagrelor ___ year
-stress TTE in ___ weeks to evaluate LAD lesion not intervened 
upon
-___ rehab referral when appropriate
-consider follow up CXR as outpatient for granulomatous changes 
noted
-Please follow up smoking cessation
-Follow up blood pressures and make changes as indicated
-Chem 10 panel within 1 week as lisinopril started
- 1 week off work, return part time until re-evaluated by 
cardiology
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Timolol Maleate 0.25% 1 DROP RIGHT EYE DAILY 
2. Aspirin 81 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*0 
2.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Nicotine Patch 21 mg TD DAILY 
After 2 weeks taper down from 21mcg to the 14mcg patch. Then 
stop or go to lower dose as able.  
RX *nicotine 21 mg/24 hour  daily Disp #*30 Patch Refills:*0 
4.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*31 Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Timolol Maleate 0.25% 1 DROP RIGHT EYE DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
NSTEMI
Ischemic cardiomyopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had a heart attack. You were 
transferred to ___ for catherization.

What happened while I was in the hospital?  
- You were found to have a heart attack because of a clogged 
artery
- You had a stent placed which opened this artery
- There is another area that is narrowed but not blocked in a 
different artery feeds your heart. This is an area that we need 
to watch, and you will have to get a stress test in the next ___ 
weeks

What should I do after leaving the hospital?  
-It is very important to take your aspirin and Brilinta 
(ticagrelor) every day.  The first dose of Brillenta is 2 pills 
at once, then one pill twice a day after that. 
-These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
-If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents, and you may die from 
a massive heart attack.  
-Please do not stop taking either medication without taking to 
your heart doctor.   
-It is very important you do not smoke cigarettes. We prescribed 
nicotine patches to curb your cravings, but there are other 
support options to help you quit. Your primary care doctor and 
cardiologists can help you with this.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___